US07138075B2
2-Chloro-5-nitrophenyl thiocyanate (Method a,b)
2-Chloro-5-nitroaniline (90.0 g, 522 mmole) and 6 N HCl (600 mL) were stirred at room temperature until a homogeneous paste was obtained. Sodium nitrite (40.5 g, 585 mmole) in water (60 mL) was added drop by drop to this solution at 0° C. under inert atmosphere. After the addition was complete, the mixture was stirred for an additional hour. This was added in portions to a solution of KSCN (72.0 g, 738 mmole) and CuSCN (63.0 g, 522 mmole) in water (200 mL) at room temperature over a period of 2 hrs. On adding the diazonium salt to the thiocyanates, the solution turned from yellow to black with foaming. The mixture was stirred overnight and then filtered. The precipitate was washed with CH2Cl2 three times. The filtrate was also washed with CH2Cl2. The combined organic extracts were washed with water and dried with MgSO4. The solvent was then removed and the crude mixture was further recrystallized in hexane to yield light yellow powder (44.7 g, 42%). mp 103° C. (lit. 102° C.). 1H NMR (250 MHz, CDCl3) δ: 8.32 (d, 1H, J=2.5 Hz), 8.10 (dd, 1H, J=8.8, 2.5 Hz), 7.66 (d, 1H, J=8.8 Hz). 13C NMR (62.5 MHz, CDCl3) δ:147.0, 138.7, 131.1, 124.6, 124.0, 107.4. HR-MS (EI): calcd. for C7H3ClN2O2S 213.9600 [M+]. found 213.9598.

reactant | 2-Chloro-5-nitroaniline | 522 mmole, 90.0 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | HCl | 6 N, 600 mL | Cl | ClH
reactant | Sodium nitrite | 585 mmole, 40.5 g | N(=O)[O-].[Na+]
reactant | KSCN | 738 mmole, 72.0 g | C(#N)[S-].[K+]
solvent | water | 60 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 2-Chloro-5-nitrophenyl thiocyanate | 44.7 g, 42% | ClC1=C(C=C(C=C1)[N+](=O)[O-])SC#N | C7H3ClN2O2S
